US08314100B2
c) 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-phenylpiperazine
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate (26 mg, 0.10 mmol) and 1-phenylpiperazine (24 mg, 0.15 mmol) were dissolved in tetrahydrofuran (2 ml) at room temperature and thereto DBU (23 mg, 0.15 mmol) was added. The resulting mixture was stirred at 70° C. for 7 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 34 mg of the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 2.42-2.48 (m, 3H), 3.22-3.30 (m, 4H), 3.77 (s, 3H), 4.12 (s, 4H), 6.90-7.12 (m, 4H), 7.25-7.32 (m, 3H), 7.48-7.65 (m, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | 0.10 mmol, 26 mg | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-phenylpiperazine | 0.15 mmol, 24 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DBU | 0.15 mmol, 23 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-phenylpiperazine | 34 mg, 90% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC=CC=C1)C | C21H23N5O2
